### PR TITLE
feat: port `proofmode/monpred.v`

### LINKED ISSUE #281: Port proofmode/monpred.v
## Summary

Port [`proofmode/monpred.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/monpred.v).

## Dependencies

**Rocq dependencies:**

- `proofmode/proofmode` (aggregation)
- #210
- #266
- #212
- #225

### PR DESCRIPTION
**Pull request by alvinylt**
## Description

Ports [`proofmode/monpred.v`](https://gitlab.mpi-sws.org/iris/iris/-/blob/master/iris/proofmode/monpred.v), hence 100% progress for the `ProofMode` module.

Resolves #281.

Additionally, a few sets of changes to `BI/MonPred.lean`:
- [x] Ports the missing notations `<obj>` and `<subj>`
- [x] Ports the missing four theorems involving `BigSepMSet`
- [x] Code style improvements
  - Remove lots of redundant `iprop(...)` wrappers and parentheses
  - Remove redundant prefixes within the namespace `MonPred`
  - `calc`-style proofs for transitive BI entailments

### Checklist of Ported Items

<details>

<summary><b>Instances of existing type classes</b></summary>

- [x] `add_modal_at_bupd_goal`
- [x] `add_modal_at_fupd_goal`
- [x] `as_emp_valid_monPred_at`
- [x] `as_emp_valid_monPred_at_equiv`
- [x] `as_emp_valid_monPred_at_wand`
- [x] `elim_acc_at_None`
- [x] `elim_acc_at_Some`
- [x] `elim_inv_embed_with_close`
- [x] `elim_inv_embed_without_close`
- [x] `elim_modal_at`
- [x] `elim_modal_at_bupd_goal`
- [x] `elim_modal_at_bupd_hyp`
- [x] `elim_modal_at_fupd_goal`
- [x] `elim_modal_at_fupd_hyp`
- [x] `from_and_monPred_at`
- [x] `from_assumption_make_monPred_at_l`
- [x] `from_assumption_make_monPred_at_r`
- [x] `from_assumption_make_monPred_objectively`
- [x] `from_assumption_make_monPred_subjectively`
- [x] `from_exist_monPred_at`
- [x] `from_exist_monPred_at_ex`
- [x] `from_forall_monPred_at`
- [x] `from_forall_monPred_at_impl`
- [x] `from_forall_monPred_at_objectively`
- [x] `from_forall_monPred_at_plainly`
- [x] `from_forall_monPred_at_wand`
- [x] `from_later_monPred_at`
- [x] `from_modal_affinely_monPred_at`
- [x] `from_modal_id_monPred_at`
- [x] `from_modal_intuitionistically_monPred_at`
- [x] `from_modal_objectively`
- [x] `from_modal_persistently_monPred_at`
- [x] `from_modal_subjectively`
- [x] `from_or_monPred_at`
- [x] `from_pure_monPred_at`
- [x] `from_pure_monPred_in`
- [x] `from_sep_monPred_at`
- [x] `into_and_monPred_at`
- [x] `into_embed_objective`
- [x] `into_except_0_monPred_at_bwd`
- [x] `into_except_0_monPred_at_fwd`
- [x] `into_exist_monPred_at`
- [x] `into_exist_monPred_at_ex`
- [x] `into_forall_monPred_at`
- [x] `into_forall_monPred_at_index`
- [x] `into_forall_monPred_at_objectively`
- [x] `into_forall_monPred_at_plainly`
- [x] `into_internal_eq_monPred_at`
- [x] `into_or_monPred_at`
- [x] `into_persistent_monPred_at`
- [x] `into_pure_monPred_at`
- [x] `into_pure_monPred_in`
- [x] `into_sep_monPred_at`
- [x] `into_wand_impl'_monPred` (ignored)
- [x] `into_wand_monPred_at_known_unknown_ge`
- [x] `into_wand_monPred_at_known_unknown_le`
- [x] `into_wand_monPred_at_unknown_known`
- [x] `into_wand_monPred_at_unknown_unknown`
- [x] `into_wand_wand'_monPred` (ignored)
- [x] `is_except_0_monPred_at`
- [x] `maybe_into_later_monPred_at`

</details>

<details>

<summary><b><tt>FrameMonPredAt</tt> and its instances</b></summary>

- [x] `FrameMonPredAt`
- [x] `frame_monPred_at_absorbingly`
- [x] `frame_monPred_at_affinely`
- [x] `frame_monPred_at_and`
- [x] `frame_monPred_at_bupd`
- [x] `frame_monPred_at_embed`
- [x] `frame_monPred_at_enter`
- [x] `frame_monPred_at_exist`
- [x] `frame_monPred_at_forall`
- [x] `frame_monPred_at_fupd`
- [x] `frame_monPred_at_here`
- [x] `frame_monPred_at_impl`
- [x] `frame_monPred_at_intuitionistically`
- [x] `frame_monPred_at_later`
- [x] `frame_monPred_at_laterN`
- [x] `frame_monPred_at_objectively`
- [x] `frame_monPred_at_or`
- [x] `frame_monPred_at_persistently`
- [x] `frame_monPred_at_sep`
- [x] `frame_monPred_at_subjectively`
- [x] `frame_monPred_at_wand`

</details>

<details>

<summary><b><tt>MakeMonPredAt</tt> and its instances</b></summary>

- [x] `MakeMonPredAt`
- [x] `make_monPred_at_absorbingly`
- [x] `make_monPred_at_absorbingly_if`
- [x] `make_monPred_at_affinely`
- [x] `make_monPred_at_affinely_if`
- [x] `make_monPred_at_and`
- [x] `make_monPred_at_bupd`
- [x] `make_monPred_at_default`
- [x] `make_monPred_at_embed`
- [x] `make_monPred_at_emp`
- [x] `make_monPred_at_except_0`
- [x] `make_monPred_at_exists`
- [x] `make_monPred_at_forall`
- [x] `make_monPred_at_fupd`
- [x] `make_monPred_at_in`
- [x] `make_monPred_at_internal_eq`
- [x] `make_monPred_at_intuitionistically`
- [x] `make_monPred_at_intuitionistically_if`
- [x] `make_monPred_at_later`
- [x] `make_monPred_at_laterN`
- [x] `make_monPred_at_or`
- [x] `make_monPred_at_persistently`
- [x] `make_monPred_at_persistently_if`
- [x] `make_monPred_at_pure`
- [x] `make_monPred_at_sep`

</details>

<details>

<summary><b><tt>IsBiIndexRel</tt> and its instance</b></summary>

- [x] `IsBiIndexRel`
- [x] `is_bi_index_rel_refl`

</details>

<details>

<summary><b>Modality-related items</b></summary>

- [x] `modality_objectively`
- [x] `modality_objectively_mixin`

</details>

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

File: Iris/Iris/ProofMode/MonPred.lean [hunk 1]
```diff
@@ -0,0 +1,1131 @@
...
+
+set_option synthInstance.checkSynthOrder false in
+/--
+  `Q.monPred_at i` is an input argument of `IntoExcept0`.
+  Unifying the conclusion assigns the metavariables before the assumption is involved.
+-/
+@[rocq_alias into_except_0_monPred_at_bwd]
+instance intoExcept0_monPred_at_bwd (P Q : MonPred I PROP) (𝓟 : PROP) (i : I.car)
+    [h : IntoExcept0 .out P Q] [instMP : MakeMonPredAt .indexToProp i P 𝓟] :
+    IntoExcept0 .out 𝓟 (Q.monPred_at i) where
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/MonPred.lean]: Is the `.out` version actually used anywhere else? Or should this be `.in` instead of `.out` here? (In which the `io` is maybe not necessary, but we probably want some `ipm_backtrack` and some priorities.)

File: Iris/Iris/ProofMode/Classes.lean [hunk 2]
```diff
@@ -37,25 +37,25 @@ end
...
+theorem asEmpValid_2 {PROP} [bi : BI PROP] {P: PROP} (φ : Prop) {io ioP}
+    (inst : AsEmpValid .from φ io PROP bi ioP P) : (⊢ P) → φ :=
   inst.as_emp_valid.right rfl
 
 @[ipm_class, rocq_alias AsEmpValid0]
 class AsEmpValid0 (d : AsEmpValid.Direction) (φ : Prop) (io : InOut := d.toInOut)
     (PROP : semiOutParamIPM io (Type _))
-    (bi : semiOutParamIPM d.toInOut (BI PROP)) (P : outParam PROP) where
-  as_emp_valid_0 : AsEmpValid d φ io PROP bi P
+    (bi : semiOutParamIPM io (BI PROP)) (ioP := .out) (P : semiOutParamIPM ioP PROP) where
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Classes.lean]: I am not sure if this default parameter is a good idea since it might accidentally make instances less generic than desired. Is there a specific reason why you added it?

File: Iris/Iris/ProofMode/Classes.lean [hunk 3]
```diff
@@ -37,25 +37,25 @@ end
 @[ipm_class, rocq_alias AsEmpValid]
 class AsEmpValid (d : AsEmpValid.Direction) (φ : Prop) io
     (PROP : semiOutParamIPM io (Type _))
-    (bi : semiOutParamIPM d.toInOut (BI PROP))
-    (P : outParam PROP) where
+    (bi : semiOutParamIPM io (BI PROP))
+    ioP (P : semiOutParamIPM ioP PROP) where
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Classes.lean]: Does `AsEmpValid` also need the new `io` parameters or is this only necessary for `AsEmpValid0`?

File: Iris/Iris/ProofMode/MonPred.lean (hunk 1 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/MonPred.lean]: In Rocq, `IntoExcept0` is configured with the hint mode `! -` so it is more permissive than the existing definition of `IntoExcept0` in Lean. Lean complained about `𝓟` being a metavariable at an input argument position, that's why generalised `IntoExcept0` to work both ways.

Actually, I couldn't come up with a good example to test this instance beyond [the `#ipm_synth` line](https://github.com/ISTA-PLV/iris-lean/blob/7d44ac3027f76e8b6ac1a44d45ae6edf435bac3e/Iris/IrisTest/MonPred.lean#L312-L319), as the only real usage of `IntoExcept0` is [`elimModal_timeless`](https://github.com/ISTA-PLV/iris-lean/blob/7d44ac3027f76e8b6ac1a44d45ae6edf435bac3e/Iris/Iris/ProofMode/InstancesLater.lean#L381-L391) which only works at the forward direction. An alternative I considered was to ignore this instance, in which case there would be no need to change `IntoExcept0`.

File: Iris/Iris/ProofMode/Classes.lean (hunk 2 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Classes.lean]: Agreed, default value for `ioP` removed.

Commit: https://github.com/leanprover-community/iris-lean/commit/4afd24a2b7b17ae9df18e4ac704b8d7d06066e97

File: Iris/Iris/ProofMode/Classes.lean (hunk 3 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/Classes.lean]: It also works with `P` fixed as an output parameter. The instance for embedding (`asEmpValid_embed`) is updated so that `ioP` for `AsEmpValid0` is fixed as `.out`:

```lean4
instance (priority := low) asEmpValid_embed d φ io (P : PROP1)
    [inst : AsEmpValid0 d φ io PROP1 bi1 .out P] :
    AsEmpValid d φ io PROP2 bi2 (embed P)
```

Commit: https://github.com/leanprover-community/iris-lean/commit/c6c960a884a1e61bea6b6e2be32724b7dc813628

File: Iris/Iris/ProofMode/MonPred.lean (hunk 1 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/MonPred.lean]: I think the point of the backward instance is to compute `P` from `𝓟` using `MakeMonPredAt` and then call `IntoExcept0` with `P` as the input. So I don't think `IntoExcept0` needs an `io` parameter, but maybe `MakeMonPredAt` does need to support `P` being an output.

Comment (alvinylt) [reply Iris/Iris/ProofMode/MonPred.lean]: If I understand correctly, `MakeMonPredAt` allows conversion between `𝓟` and `i`, while `P` is always an input? Considering the default instance [`makeMonPredAt_default`](https://github.com/ISTA-PLV/iris-lean/blob/50baa6571730df2e5cdb8704a17f977e68fa203e/Iris/Iris/ProofMode/MonPred.lean#L781-L784), would making `P` an output resulting in it matching any goal? Meanwhile, there are [two Hint Modes for `IntoExcept0`](https://gitlab.mpi-sws.org/iris/iris/-/blob/f0f9f3b67ec5a40ac51f4c8d8df23be89bc4913c/iris/proofmode/classes.v?blame=1#L414-415) which is a bit unusual, so I might understand it better with some concrete usage examples.

Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/MonPred.lean]: Actually, what I said in my previous message about how the backward instance works might be wrong since I think the type class parameters are in the wrong order for this in the Rocq version. I don't understand how the backward instance is supposed to work in Rocq. Also I don't understand why IntoExcept0 has two hint modes in Rocq. It does not seem necessary in [the commit that introduces them](https://gitlab.mpi-sws.org/iris/iris/-/commit/7499050658800a43047a03e40e8f0a6b8f40593a).
Maybe we just ignore the backward instance for now?

Comment (alvinylt) [reply Iris/Iris/ProofMode/MonPred.lean]: Sure, let's ignore the instance and revert the change to `IntoExcept0` for the time being.

Commit: https://github.com/leanprover-community/iris-lean/pull/677/commits/edcd64afdbc34a33cdc7b7fcff7f543b65872cd7

File: Iris/Iris/ProofMode/InstancesLater.lean [hunk 4]
```diff
@@ -333,16 +333,25 @@ instance fromModal_except0 [BI PROP] io (P : PROP) :
   from_modal _ := except0_intro
 
 /-! ### IntoExcept0 -/
+
+/- The three non-recursive instances require  -/
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/InstancesLater.lean]: ?

File: Iris/Iris/ProofMode/InstancesLater.lean [hunk 5]
```diff
@@ -333,16 +333,25 @@ instance fromModal_except0 [BI PROP] io (P : PROP) :
...
+
+set_option synthInstance.checkSynthOrder false in
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/InstancesLater.lean]: Are these set_options still necessary?

File: Iris/Iris/ProofMode/InstancesEmbedding.lean [hunk 6]
```diff
@@ -280,8 +280,10 @@ instance fromModal_later_embed [BiEmbedLater PROP1 PROP2] {α} φ io (sel : α)
 
 /-! ### IntoExcept0 -/
 
+/-- The metavariables `PROP1` and `bi1` are unified in the conclusion before the premise runs. -/
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/InstancesEmbedding.lean]: I don't think this comment is necessary.

File: Iris/Iris/ProofMode/MonPred.lean [hunk 7]
```diff
@@ -0,0 +1,1119 @@
...
+open Lean Meta
+
+/--
+  `MakeMonPredAt` is used by `AsEmpValid` to import lemmas into the proof mode,
+  with `makeMonPredAt_default` as the fallback option.
+  However, if any of `I`, `PROP` or `P` is a metavariable, `makeMonPredAt_default`
+  should not be used.
+-/
+@[ipm_tactic_instance MakeMonPredAt _ _ _ _]
+meta def makeMonPredAtModeGuard : SynthTactic := fun e => do
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/MonPred.lean]: Why is this necessary? Does the input checking of the ipm search not handle this?

File: Iris/Iris/ProofMode/MonPred.lean [hunk 8]
```diff
@@ -0,0 +1,1119 @@
...
+  from_assumption := calc
+    _ ⊢ P.monPred_at j := intuitionisticallyIf_elim
+    _ ⊢ P.monPred_at i := P.monPred_mono instRel.is_bi_index_rel
+    _ ⊢ 𝓟              := instMP.make_monPred_at.mp
+
+@[ipm_backtrack, rocq_alias from_assumption_make_monPred_at_r]
+instance fromAssumption_make_monPred_at_r (p : Bool) d (i j : I.car)
+    (P : MonPred I PROP) (𝓟 : PROP)
+    [instMP : MakeMonPredAt d i P 𝓟] [instRel : IsBiIndexRel i j] :
+    FromAssumption p d.propIO 𝓟 (P.monPred_at j) where
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/MonPred.lean]: Does having `d.propIO` in the conclusion work? I am not sure if Lean is smart enough to infer `d` from a unification problem like `d.propIO = .out`.

File: Iris/IrisTest/MonPred.lean [hunk 9]
```diff
@@ -0,0 +1,472 @@
...
+#guard_msgs (whitespace := lax) in
+example {α : Type _} (Φ : α → PROP) :
+    □ (∀ a, ⎡Φ a⎤) ⊣⊢@{MonPred I PROP} ⎡□ (∀ a, Φ a)⎤ := by
+  istart PROP
+  trace_state
+  iintro %i
+  isplit <;> iintro _ //
+
+-- Expected: `AsEmpValid .from _ .in PROP bi .out iprop(∀ i, 𝓟 -∗ 𝓠)`,
+-- i.e. `asEmpValid_monPred_at_wand` (not `asEmpValid_monPred_at`).
```
Comment (MackieLoeffel) [inline Iris/IrisTest/MonPred.lean]: What is this comment about?

**Review by MackieLoeffel — APPROVED** [review]
Except for some minor comments, this looks good to me. (Thought I am not super familiar with these instances as I have not used monotone predicates myself. I guess we will see if this actually works when someone tries to use monotone predicates with Iris Lean.)

File: Iris/IrisTest/MonPred.lean (hunk 9 above)
Comment (alvinylt) [reply Iris/IrisTest/MonPred.lean]: Duplicate comment for the test below. Removed in commit https://github.com/leanprover-community/iris-lean/pull/677/commits/fea2928a2d73028d36bafe6764c56227ecc8c155.

File: Iris/Iris/ProofMode/InstancesLater.lean (hunk 5 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/InstancesLater.lean]: No, they were necessary only when `IntoExcept0` involved semi-output parameters. The config for these three instances and `isExcept0_monPred_at` have been removed.

Commit: https://github.com/leanprover-community/iris-lean/commit/7f93794dc04ddadb51ad955339b249df39c012fb

File: Iris/Iris/ProofMode/InstancesLater.lean (hunk 4 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/InstancesLater.lean]: Oops, I meant "the three non-recursive instances require `set_option synthInstance.checkSynthOrder false` as `◇ P` as an input pins `P` by unification", but somehow it is cut off. Nonetheless, since this is no longer relevant, the comment is removed.

Commit: https://github.com/leanprover-community/iris-lean/commit/7f93794dc04ddadb51ad955339b249df39c012fb

File: Iris/Iris/ProofMode/InstancesEmbedding.lean (hunk 6 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/InstancesEmbedding.lean]: Removed in commit https://github.com/leanprover-community/iris-lean/commit/b9ef2f55882d8419df1d9c871b4355a74287fe1d.

File: Iris/Iris/ProofMode/MonPred.lean (hunk 8 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/MonPred.lean]: You're correct about this being problematic.

With this formulation of the instance, the type class synthesiser is unable to apply the instance in the following test.

```lean4
#ipm_synth ∀ 𝓟 (j : I.car), FromAssumption true .in 𝓟 ((iprop(⎡𝓟⎤) : MonPred I PROP).monPred_at j)
```

The solution is to do it the other way round, that is, having `io` for `FromAssumption` which is then mapped to the `MakeMonPredAt.Kind` value for the `MakeMonPredAt` premise.

Commit: https://github.com/leanprover-community/iris-lean/commit/ac0aa4a7436c80cc33c07222630a4ae7fe3de11b

File: Iris/Iris/ProofMode/MonPred.lean (hunk 7 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/MonPred.lean]: Without this, a few proofs in the codebase that use `iapply` would be broken.

An example is the following:

```lean4
@[rocq_alias bupd_alt_plainly]
theorem BUpdPlain_plainly {P : PROP} : BUpdPlain iprop(■ P) ⊢ (■ P) := by
  unfold BUpdPlain
  iintro H
  iapply H
  iapply wand_rfl
```

The last line would give the error `iapply: cannot apply MonPred.monPred_at ?m.72 ?m.121 to iprop(■ P -∗ ■ P)`.

The instance `asEmpValid_monPred_at_wand` is tried, which in turn uses `MakeMonPredAt` (`makeMonPredAt_default`), and that is why we get `MonPred.monPred_at ?m.72 ?m.121` I think it is again due to the difference between `Hint Mode` in Rocq and parameter configuration for type classes in Lean. In Rocq, the default instance of `MakeMonPredAt` is never reached, whereas in Lean a value containing metavariables can be returned, which is why we perform the check using the guard.

File: Iris/Iris/ProofMode/MonPred.lean [hunk 10]
```diff
@@ -0,0 +1,1123 @@
...
+        (inst.as_emp_valid_0.as_emp_valid.left hd hφ) i).trans (instMP i).make_monPred_at.mp
+    · refine fun hd hP =>
+        inst.as_emp_valid_0.as_emp_valid.right hd ((monPred_at_emp_valid P).mpr fun i => ?_)
+      calc
+        _ ⊢ ∀ a, Φ a       := hP
+        _ ⊢ Φ i            := forall_elim i
+        _ ⊢ P.monPred_at i := (instMP i).make_monPred_at.mpr
+
+@[ipm_backtrack, rocq_alias as_emp_valid_monPred_at_wand]
+instance asEmpValid_monPred_at_wand (d : AsEmpValid.Direction) (φ : Prop) io
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/MonPred.lean]: Should this instance and the other instances only work when `io = .in`? it seems a bit weird to try this instance if `io = .out` since then somehow the search would need to find the right `PROP`. The same probably also applies to the ProofMode.asEmpValid_embed instance.

Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/MonPred.lean]: I also think these instances should have a priority lower than default, e.g. something like `default - 50`.

File: Iris/Iris/ProofMode/MonPred.lean (hunk 7 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/MonPred.lean]: ~~This is weird, I don't understand what is going on here. Should the input checking in the ipm TC synth not just check for mvars at the top level but also if the input is an mvar applied to some arguments? Would this change anything here?~~

Edit: No I don't think it would help here. Maybe just making these instances lower priority than the default is the right solution here? This might also be how it works in Rocq.

Comment (alvinylt) [reply Iris/Iris/ProofMode/MonPred.lean]: There is no specific priority set in Rocq, but a lower priority for `asEmpValid_monPred_at_wand` and `asEmpValid_monPred_at_equiv` indeed avoids the need for the guard. The proofs then prefers `asEmpValid_of_asEmpValid0` and if it fails, it backtracks and tries `asEmpValid_monPred_at_wand_*`.

Commit: https://github.com/leanprover-community/iris-lean/pull/677/commits/1be26a62f37249aaec0a166f50ad006e7c870611

File: Iris/Iris/ProofMode/MonPred.lean (hunk 10 above)
Comment (alvinylt) [reply Iris/Iris/ProofMode/MonPred.lean]: Same fix as in https://github.com/leanprover-community/iris-lean/pull/677#discussion_r3854979467.

Comment (alvinylt) [reply Iris/Iris/ProofMode/MonPred.lean]: Yes, it works with `io := .in`. Is it accurate to say that `asEmpValid_embed` and `asEmpValid_monPred_at*` are applicable only when `istart PROP` is used (where `PROP` is explicitly specified by the user`), and that is why it must be an input?

Commit: https://github.com/leanprover-community/iris-lean/pull/677/commits/792f304ec440352e7b7b8f9913e44f118a09e607

File: Iris/Iris/ProofMode/MonPred.lean (hunk 7 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/MonPred.lean]: Priority in Rocq is weird: It is based on the number of hypotheses of the instance and hypotheses with less arguments are tried first. So the monPred instances implicitly are tried after the asEmpValid0 instance.

File: Iris/Iris/ProofMode/MonPred.lean (hunk 10 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/MonPred.lean]: They are also valid for `ihave / iapply`, but there we also have `io := .in`.
